US09403798B2
(R)-1-(4-Fluorophenyl)piperidin-3-amine hydrochloride
To tert-butyl (R)-[1-(4-fluorophenyl)piperidin-3-yl]carbamate (250 mg, 0.85 mmol) synthesized in Reference Synthesis Example 25, 4 M hydrogen chloride/1,4-dioxane solution (2.5 mL) was added and the resultant mixture was stirred at room temperature for 18 hours. After completion of the reaction, the resultant solid was collected by filtration to obtain the title compound (220 mg, quantitative).

reactant | tert-butyl (R)-[1-(4-fluorophenyl)piperidin-3-yl]carbamate | 0.85 mmol, 250 mg | FC1=CC=C(C=C1)N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C16H23FN2O2
reactant | hydrogen chloride 1,4-dioxane | 4 M, 2.5 mL | Cl.O1CCOCC1
product | (R)-1-(4-Fluorophenyl)piperidin-3-amine hydrochloride | 220 mg | Cl.FC1=CC=C(C=C1)N1C[C@@H](CCC1)N | InChI=1S/C11H15FN2.ClH/c12-9-3-5-11(6-4-9)14-7-1-2-10(13)8-14;/h3-6,10H,1-2,7-8,13H2;1H/t10-;/m1./s1
